US06147088
Step 15D 7-chloro-3-(3,5-dimethylphenyl)-4-[2-(1-methylpyrrolidin-2-yl)-ethylamino]-6-nitro-1H-quinolin-2-one
To a solution of N-[7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-yl]-2,2,2-trifluoro-N-[2-(1-methylpyrrolidin-2-yl)-ethyl]acetamide (50 mg in a mixture of 1.0 mL methanol and 0.10 mL water) was added 25 mg potassium carbonate and the mixture heated to 60° C. After 4 hours, the mixture was cooled to room temperature and the solvent removed in vacuo. The residue was dissolved in ethyl acetate and washed sequentially with water and brine then dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (chloroform:methanol:ammonium hydroxide, 90:10:1) gave the title compound (31 mg). MASS: 455 (M+H)

reactant | N-[7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-yl]-2,2,2-trifluoro-N-[2-(1-methylpyrrolidin-2-yl)-ethyl]acetamide | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)N(C(C(F)(F)F)=O)CCC1N(CCC1)C)[N+](=O)[O-] | C26H26ClF3N4O4
reactant | potassium carbonate | 25 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1.0 mL | CO | CH4O
solvent | water | 0.10 mL | O | H2O
product | 7-chloro-3-(3,5-dimethylphenyl)-4-[2-(1-methylpyrrolidin-2-yl)-ethylamino]-6-nitro-1H-quinolin-2-one | 31 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)NCCC1N(CCC1)C)[N+](=O)[O-] | C24H27ClN4O3
